US07511157B2
To the solid cyclopropanesulfonamide 2d4 (1.51 g; 12.46 mmol) was added in sequence: di-t-butyl-dicarbonate (3.26 g; 14.95 mmol) dissolved in anhydrous dichloromethane (15 mL), triethylamine (2.6 mL; 18.65 mmol) and dimethylaminopyridine (76 mg; 0.622 mmol). The resulting solution was stirred at room temperature overnight and subsequently evaporated to near dryness. The residue was diluted with EtOAc, washed with 1N aq. HCl (3×) and brine (1×), dried (MgSO4), filtered and evaporated to dryness to provide the Boc-cyclopropylsulfonamide product 2d5 as a white solid (2.6 g; 94%).

reactant | cyclopropanesulfonamide | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | di-t-butyl-dicarbonate | 14.95 mmol, 3.26 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 18.65 mmol, 2.6 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.622 mmol, 76 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Boc-cyclopropylsulfonamide | C(=O)(OC(C)(C)C)NS(=O)(=O)C1CC1 | C8H15NO4S
